US09371280B2
In a manner similar to the method described in Example 14, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1) was reacted with (R)-dimethyl 2-aminopentanedioate to give (R)-2-(4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoylamino)-pentanedioic acid dimethyl ester, hydrochloride. MS (ES+) m/z calcd. for C38H41Cl2F2N4O7: [(M+H)+]773. found: 773.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | (R)-dimethyl 2-aminopentanedioate | N[C@@H](C(=O)OC)CCC(=O)OC | C7H13NO4
product | (R)-2-(4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoylamino)-pentanedioic acid dimethyl ester, hydrochloride | Cl.COC([C@@H](CCC(=O)OC)NC(C1=CC(=C(C=C1)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)OC)=O)=O | InChI=1S/C38H40Cl2F2N4O7.ClH/c1-37(2,3)18-29-38(19-43,23-12-11-21(39)17-25(23)41)31(22-8-7-9-24(40)32(22)42)33(46-29)35(49)44-26-13-10-20(16-28(26)51-4)34(48)45-27(36(50)53-6)14-15-30(47)52-5;/h7-13,16-17,27,29,31,33,46H,14-15,18H2,1-6H3,(H,44,49)(H,45,48);1H/t27-,29+,31+,33-,38+;/m1./s1
